US08227615B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-((2-(dimethylamino)ethoxy)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide was prepared from 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(hydroxy(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide and 2-(dimethylamino)ethanol in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((3-hydroxypropoxy)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(hydroxy(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)O | C24H22N2O5
reactant | 2-(dimethylamino)ethanol | CN(CCO)C | C4H11NO
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((3-hydroxypropoxy)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)OCCCO | C27H28N2O6
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-((2-(dimethylamino)ethoxy)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)OCCN(C)C | C28H31N3O5
